US07622469B2
3,6-Dihydro-6,6-dimethyl-2-hexylamino-4-heptylamino-1,3,5-triazine acetate
100 ml of methanol, 80 ml of acetone and 0.7 ml of concentrated hydrochloric acid were added to 10.0 g (28.1 mmol) of N1-hexyl-N5-heptyl-biguanide dihydrochloride. The mixture was refluxed for 23 hours, and the solvent was distilled off under reduced pressure. To the residue were added 100 ml of ethanol, 60 ml of water and 11.3 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed successively with 10% aqueous sodium acetate and water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from methyl ethyl ketone to obtain 8.4 g of colorless crystals having a melting point of 70 to 75° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-hexyl-N5-heptyl-biguanide dihydrochloride | 28.1 mmol, 10.0 g | Cl.Cl.C(CCCCC)NC(=N)NC(=N)NCCCCCCC
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-2-hexylamino-4-heptylamino-1,3,5-triazine acetate | 8.4 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCCCCCC)NCCCCCCC)C | InChI=1S/C18H37N5.C2H4O2/c1-5-7-9-11-13-15-20-17-21-16(22-18(3,4)23-17)19-14-12-10-8-6-2;1-2(3)4/h5-15H2,1-4H3,(H3,19,20,21,22,23);1H3,(H,3,4)
